US07696216B2
A. Synthesis of 4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazoline-2-thione
A solution of 0.5 g (1.71 mmol) (2-amino-5-prop-2-ynyloxy-phenyl)-(4-isopropyl-phenyl)-methanone and 0.23 ml (1.71 mmol) benzoyl isothiocyanate in 5 ml THF is stirred for 3 h at r.t. before 0.235 g potassium carbonate and 5 ml methanol are added. After stirring for 18 h, the reaction mixture is acidified with 0.1 M aqueous hydrochloric acid and extracted with dichloromethane. After evaporation of the organic phases, the residue is triturated with diethyl ether to give the title compound.

reactant | (2-amino-5-prop-2-ynyloxy-phenyl)-(4-isopropyl-phenyl)-methanone | 1.71 mmol, 0.5 g | NC1=C(C=C(C=C1)OCC#C)C(=O)C1=CC=C(C=C1)C(C)C | C19H19NO2
reactant | benzoyl isothiocyanate | 1.71 mmol, 0.23 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | potassium carbonate | 0.235 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 0.1 M | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazoline-2-thione | C(C)(C)C1=CC=C(C=C1)C1=NC(NC2=CC=C(C=C12)OCC#C)=S | C20H18N2OS
